US07378418B2
Preparation of 2-(4-(Isoxazol-5-yl)benzyl)-7-(4-fluorophenyl)-8-(pyridin-4-yl)-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one
The title compound was prepared by reacting 7-(4-fluorophenyl)-8-(pyridine-4-yl)-[1,2,4]-triazolo[4,3-b]pyridazin-3(2H)-one, prepared as described in Example 279F, 5-(4-(bromomethyl)phenyl)isoxazole, prepared as described in Example 250A by procedures analogous to those described in Example 2 as a yellow solid (68%). HPLC: 99% at 5.46 min (retention time) (Conditions: Zorbax SB C18 (4.6×75 mm); Eluted with 0% to 100% B, 8 min gradient. (A=90% H2O—10% MeOH—0.1% H3PO4 and B=10% H2O—90% MeOH—0.1% H3PO4); Flow rate at 2.5 mL/min. UV detection at 220 nm). MS (ES): m/z 465 [M+H]+; 1H NMR (CDCl3, 400 MHz): δ 5.25 (s, 2H), 6.51 (d, J=0.96 Hz, 1H), 7.01-7.09 (m, 2H), 7.11-7.18 (m, 2H), 7.23 (dd, J1=4.40 Hz, J2=1.76 Hz, 2H), 7.51 (d, J=8.3 Hz, 2H), 7.77 (d, J=8.3 Hz, 2H), 8.21 (s, 1H), 8.28 (d, J=1.76 Hz, 1H), 8.61-8.64 (m, 2H).

reactant | 7-(4-fluorophenyl)-8-(pyridine-4-yl)-[1,2,4]-triazolo[4,3-b]pyridazin-3(2H)-one | FC1=CC=C(C=C1)C1=C(C=2N(N=C1)C(NN2)=O)C2=CC=NC=C2 | C16H10FN5O
reactant | 5-(4-(bromomethyl)phenyl)isoxazole | BrCC1=CC=C(C=C1)C1=CC=NO1 | C10H8BrNO
product | 2-(4-(Isoxazol-5-yl)benzyl)-7-(4-fluorophenyl)-8-(pyridin-4-yl)-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one | O1N=CC=C1C1=CC=C(CN2N=C3N(N=CC(=C3C3=CC=NC=C3)C3=CC=C(C=C3)F)C2=O)C=C1 | C26H17FN6O2
